US08557992B2
Synthesis of 5-(chloromethyl)-2-methoxypyridine
To a solution of the above compound (0.033 g, 0.078 mmol) in a mixture of 1.4 mL of THF and 0.15 mL of water under an atmosphere of nitrogen was added 5-(chloromethyl)-2-methoxypyridine hydrochloride (0.024 g, 0.12 mmol), cesium carbonate (0.061 g, 0.19 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II), 1:1 complex with dichloromethane (9.0 mg, 0.011 mmol). The mixture was heated to 100° C. for 15 h, cooled to rt, and diluted with ethyl acetate. The organic solution was washed with saturated aqueous sodium bicarbonate and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 15-80% ethyl acetate in hexanes, to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 418.0 for [M+H]+: 1H NMR (400 MHz, CDCl3) δ 8.99 (dd, J=4.0, 1.6 Hz, 1H), 8.27 (dd, J=7.2, 1.2 Hz, 1H), 8.25 (s, 1H), 8.07 (d, J=2.4 Hz, 1H), 7.99 (d, J=7.6 Hz, 1H), 7.52 (dd, J=8.4, 4.4 Hz, 1H), 7.48 (d, J=7.6 Hz, 1H), 7.33 (dd, J=8.4, 2.4 Hz, 1H), 6.62 (d, J=8.8 Hz, 1H), 5.17-5.24 (m, 1H), 4.38 (s, 2H), 4.23 (dd, J=10.8, 5.2 Hz, 1H), 4.12 (dd, J=10.8, 3.6 Hz, 1H), 3.95-4.01 (m, 1H), 3.89 (s, 3H), 3.58-3.64 (m, 1H), 3.38 (t, J=10.8 Hz, 1H), 2.11-2.21 (m, 1H), 1.98-2.05 (m, 1H).

reactant | 5-(chloromethyl)-2-methoxypyridine hydrochloride | 0.12 mmol, 0.024 g | Cl.ClCC=1C=CC(=NC1)OC
reactant | cesium carbonate | 0.19 mmol, 0.061 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dichloromethane | 0.011 mmol, 9.0 mg | ClCCl | CH2Cl2
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
solvent | water | 0.15 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(chloromethyl)-2-methoxypyridine | ClCC=1C=CC(=NC1)OC | C7H8ClNO
